US04866064
A mixture of 19.5 g of the thus obtained 2-heptylthio-7-hydroxy-6-methyl-5H-1,3,4-thiadiazolo-[3,2-a]pyrimidin-5-one, 38 g of phosphorus oxychloride and 13.6 g of phosphorus pentachloride was warmed to 77°~88° C. and was stirred for 2 hours. The reaction solution was concentrated under reduced pressure, thereafter the residue was dissolved in toluene, and the solution was washed with a potassium carbonate aqueous solution and water respectively. After the solution was dried over anhydrous sodium sulfate, the solvent was distilled off and the residue was purified by column chromatography on a silica gel with an ethyl acetate/n-hexane (2:3) mixture as an eluent. After the solvent was distilled off, 19.0 g of 7-chloro-2-heptylthio-6-methyl-5H-1,3,4-thiadiazolo-[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-heptylthio-7-hydroxy-6-methyl-5H-1,3,4-thiadiazolo-[3,2-a]pyrimidin-5-one | C(CCCCCC)SC1=NN2C(=NC(=C(C2=O)C)O)S1 | C13H19N3O2S2
reactant | phosphorus oxychloride | 38 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentachloride | 13.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 7-chloro-2-heptylthio-6-methyl-5H-1,3,4-thiadiazolo-[3,2-a]pyrimidin-5-one | 19.0 g, Yield 92% | ClC=1N=C2N(C(C1C)=O)N=C(S2)SCCCCCCC | C13H18ClN3OS2
